US04642355
A solution of 188 mg of triethylamine in 3 ml of DMF was gradually added dropwise with ice cooling and stirring to a solution of 520 mg of the A-isomer of the N-[(R)-1-ethoxycarbonyl-2-ethoxycarbonylmethylthioethyl]-alanine obtained in Reference Example 22, 319 mg of t-butyl ester of (S)-proline and 304 mg of DEPC in 5 ml of DMF. The mixture was stirred for 12 hours while being allowed to slowly come to room temperature. Ice water was added to the reaction mixture and the mixture was made weakly alkaline with a saturated aqueous solution of sodium hydrogencarbonate. The mixture was extracted with ethyl acetate. The extract was washed sequentially with water and with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. Then the extract was distilled under reduced pressure. The residue was purified by silica gel column chromatography (using a 10:1 mixture of chloroform and methanol as an eluent), giving the A-isomer of the title compound as a colorless oil.

reactant | triethylamine | 188 mg | C(C)N(CC)CC | C6H15N
reactant | N-[(R)-1-ethoxycarbonyl-2-ethoxycarbonylmethylthioethyl]-alanine | C(C)OC(=O)[C@H](CSCC(=O)OCC)N[C@@H](C)C(=O)O | C12H21NO6S
reactant | (S)-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | DEPC | 304 mg | CCOC(=O)OC(=O)OCC | C6H10O5
